US07709645B2
5-Bromo-3-[1-(2-ethyl-2H-pyrazol-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine (602 mg, 1.86 mmol), ethyl alcohol (30 ml), and concentration hydrochloric acid (30 ml) were combined and stirred at 100° C. for 18 hours. The reaction was quenched with sodium bicarbonate solution and the product was filtered off. The filtered product was dried under high vacuum to give 320 mg (59%) of 5-bromo-3-(2-ethyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine. MS: m/z 291.3+293.3 (M+H+).

reactant | 5-Bromo-3-[1-(2-ethyl-2H-pyrazol-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine | 1.86 mmol, 602 mg | BrC=1C=C(C(=NC1)N)C(=COC)C=1N(N=CC1)CC | C13H15BrN4O
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
product | 5-bromo-3-(2-ethyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine | 320 mg, 59% | BrC=1C=C2C(=NC1)NC=C2C=2N(N=CC2)CC | C12H11BrN4
